US07723527B2
6-Chloro-4-methyl-2-{4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole
4-Methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-nicotinonitrile. To a stirred solution of 2,2,6,6-tetramethyl-piperidine (0.20 mL, 1.16 mmol, 1.5 equiv) in THF (3 mL) at −78° C. was added 2.5 M n-butyllithium in hexanes (0.46 mL, 1.16 mmol, 1.5 equiv). After 10 min, the reaction mixture was warmed to 0° C. for 45 min before re-cooling to −78° C. A solution of 6-[3-(1-methyl-piperidin-4-yl)-propoxy]-nicotinonitrile (200 mg, 0.77 mmol, 1.0 equiv) in THF (3 mL) was then added. After stirring for 1 h at −78° C., the mixture was treated with methyl iodide (0.05 mL, 0.84 mmol, 1.1 equiv) and stirring was continued for 1.5 h before quenching at −78° C. with satd. aq. NaHCO3 (5 mL). The mixture was warmed to rt and extracted with chloroform (2×10 mL). The combined extracts were dried (Na2SO4), filtered, and concentrated to give a crude residue, which was purified by Method 2 to give 120 mg (57%) of the title compound. MS (electrospray): mass calculated for C16H23N3O, 273.18; m/z found, 274.4 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.39 (s, 1H), 6.67 (s, 1H), 4.31 (t, J=6.7 Hz, 2H), 2.90-2.79 (m, 2H), 2.48 (s, 3H), 2.28 (s, 3H), 1.95-1.63 (m, 6H), 1.40-1.20 (m, 5H). B. 4-Methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-Carbaldehyde. To a solution of 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-nicotinonitrile (260 mg, 0.95 mmol, 1.0 equiv) in toluene (10 mL) at 0° C. was added 1.5 M diisobutylaluminum hydride in toluene (1.26 mL, 1.90 mmol, 2.0 equiv). The mixture was warmed to rt and stirred for 2 h. Methanol (2 mL) was added, followed by 1.0 M H2SO4 (3 mL). After stirring for 30 min, the solution was neutralized with satd. aq. NaHCO3, diluted with satd. aq. sodium potassium tartrate (10 mL), and stirred an additional 30 min or until clear. The mixture was extracted with chloroform (3×15 mL) and the combined extracts were dried (Na2SO4), filtered, and concentrated to afford 200 mg of the crude product, which was used without purification. 1H NMR (400 MHz, CDCl3): 10.0 (s, 1H), 8.47 (s, 1H), 6.57 (s, 1H), 4.35 (t, J=6.7 Hz, 2H), 2.86-2.80 (m, 2H), 2.59 (s, 3H), 2.25 (s, 3H), 1.92-1.66 (m, 6H), 1.43-1.22 (m, 5H). C. 4-Methyl-2-{6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole. This compound was prepared by the method described in General Procedure 3 using 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde (60 mg, 0.22 mmol, 1.0 equiv), 5-chloro-3-methyl-benzene-1,2-diamine (34 mg, 0.22 mmol, 1.0 equiv) and Na2S2O5 (54 mg, 0.29 mmol, 1.3 equiv). Purification by Method 2 afforded 27 mg (30%) of the title compound. MS (electrospray): mass calculated for C23H29ClN4O, 412.20; m/z found, 413.4 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.77 (s, 1H), 8.23 (dd, J=8.7, 2.3 Hz, 1H), 7.25 (m, 1H), 7.12 (t, J=7.5 Hz, 1H), 7.04-6.98 (m, 1H), 6.74 (d, J=8.7 Hz, 1H), 4.34 (t, J=6.6 Hz, 2H), 2.84-2.76 (m, 2H), 2.73-2.34 (br s, 3H), 2.23 (s, 3H), 1.92-1.83 (m, 2H), 1.81-1.62 (m, 4H), 1.39-1.17 (m, 4H). The following compounds in Examples 110-114 were prepared according to the procedures described in Example 109.

reactant | 4-Methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-Carbaldehyde | CC1=C(C=NC(=C1)OCCCC1CCN(CC1)C)C=O | C16H24N2O2
reactant | 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-nicotinonitrile | 0.95 mmol, 260 mg, 1.0 equiv | CC1=CC(=NC=C1C#N)OCCCC1CCN(CC1)C | C16H23N3O
reactant | diisobutylaluminum hydride | 1.5 M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | H2SO4 | 1.0 M, 3 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | sodium potassium tartrate | 10 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | 4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridine-3-carbaldehyde | 0.22 mmol, 60 mg, 1.0 equiv | CC1=C(C=NC(=C1)OCCCC1CCN(CC1)C)C=O | C16H24N2O2
reactant | 5-chloro-3-methyl-benzene-1,2-diamine | 0.22 mmol, 34 mg, 1.0 equiv | ClC1=CC(=C(C(=C1)N)N)C | C7H9ClN2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.90 mmol, 1.26 mL, 2.0 equiv | C1(=CC=CC=C1)C | C7H8
solvent | Methanol | 2 mL | CO | CH4O
product | 6-Chloro-4-methyl-2-{4-methyl-6-[3-(1-methyl-piperidin-4-yl)-propoxy]-pyridin-3-yl}-1H-benzoimidazole | 27 mg, 30% | ClC=1C=C(C2=C(NC(=N2)C=2C=NC(=CC2C)OCCCC2CCN(CC2)C)C1)C | C23H29ClN4O
